US07608639B2
{4-[3-(4-Chloro-2-phenoxy-phenoxy)-phenoxy]-2-methyl-phenylsulfanyl}-acetic acid
A solution of 1-(3-bromo-phenoxy)-4-chloro-2-phenoxy-benzene (0.15 g, 0.4 mmol), (4-hydroxy-2-methyl-phenylsulfanyl)-acetic acid ethyl ester (99 mg, 0.44 mmol), copper(I) chloride (20 mg, 0.2 mmol), 2,2,6,6-tetramethyl-3,5-heptanedione (0.02 mL, 0.1 mmol), and cesium carbonate (156 mg, 0.48 mmol) in NMP (3 mL) is heated to 120° C. The reaction is stirred overnight and cooled to rt. The reaction is quenched with 1N aqueous HCl and extracted with ethyl ether. The organic is washed with brine, dried over sodium sulfate, and filtered. The solvent is removed to afford the crude ester intermediate. The intermediate is treated with 5N NaOH (0.4 mL, 2.2 mmol) in MeOH (5 mL) and heated to reflux. The reaction is stirred at reflux for 2 hours and then cooled. The reaction is quenched with 1N aqueous HCl to give pH=4. The aqueous layer is extracted with ethyl ether. The organic layer is washed with brine, dried over sodium sulfate, and filtered. The solvent is removed to afford the crude product. The crude is purified by prep HPLC to afford 78 mg (40%) of desired product. 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C27H21ClO5S 492, found 493 and 495 (M+1 and M+3, 100%).

reactant | 1-(3-bromo-phenoxy)-4-chloro-2-phenoxy-benzene | 0.4 mmol, 0.15 g | BrC=1C=C(OC2=C(C=C(C=C2)Cl)OC2=CC=CC=C2)C=CC1 | C18H12BrClO2
reactant | (4-hydroxy-2-methyl-phenylsulfanyl)-acetic acid ethyl ester | 0.44 mmol, 99 mg | C(C)OC(CSC1=C(C=C(C=C1)O)C)=O | C11H14O3S
reactant | 2,2,6,6-tetramethyl-3,5-heptanedione | 0.1 mmol, 0.02 mL | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 0.48 mmol, 156 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | NaOH | 2.2 mmol, 5N, 0.4 mL | [OH-].[Na+]
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | MeOH | 5 mL | CO | CH4O
catalyst | copper(I) chloride | 0.2 mmol, 20 mg | [Cu]Cl
product | {4-[3-(4-Chloro-2-phenoxy-phenoxy)-phenoxy]-2-methyl-phenylsulfanyl}-acetic acid | 78 mg, 40% | ClC1=CC(=C(OC=2C=C(OC3=CC(=C(C=C3)SCC(=O)O)C)C=CC2)C=C1)OC1=CC=CC=C1 | C27H21ClO5S
